US04332611
2-(Acetoxymethyl)benzenesulfonamide
A mixture of 2-(chloromethyl)benzenesulfonamide (2.00 g), potassium acetate (6.0 g) and water (75 ml) was heated to reflux for 1.5 hour. The pH was adjusted to ca. 5.0 by addition of hydrochloric acid and the chilled mixture was filtered to give 1.05 of of shiny white solid, m.p. 131°-133°. 'H NMR δ(CD3)2CO 8.00-7.83 (M), 7.60-7.25 (M), 6.55 (brd s), 5.47 (s), 2.97 (brd s), 2.10 (s), consistent with the assigned structure.

reactant | 2-(chloromethyl)benzenesulfonamide | 2.00 g | ClCC1=C(C=CC=C1)S(=O)(=O)N | C7H8ClNO2S
reactant | potassium acetate | 6.0 g | C(C)(=O)[O-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 75 ml | O | H2O
product | 2-(Acetoxymethyl)benzenesulfonamide | C(C)(=O)OCC1=C(C=CC=C1)S(=O)(=O)N | C9H11NO4S
